US06583154B1
(2-Methyl-6-phenylpyrrolo[2,3-e]pyrimidin-4-yl)(2,2,2-trifluoroethyl)amine
To a mixture of 4-chloro-2-methyl-6-phenyl-pyrrolo[3,2-d]pyrimidine (Example-1(e)) (55.9 mg, 0.23 mmol) and 2,2,2-trifluoroethylamine (Aldrich Chemical Company) (95 μL, 1.15 mmol) was added a solution of K2CO3 (0.13 g, 0.92 mmol) in H2O (1.5 mL). This mixture was stirred at 140° C. in a closed-capped Wheaton vial for 2.5 h. After cooling, CH2Cl2 (10 mL) and H2O (10 mL) were added. The organic solution was removed and the aqueous solution was washed with CH2Cl2 (10 mL). The combined organic solutions were washed with saturated aqueous NaCl (15 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The residue was washed with CH2Cl2 until all the color was removed. The remaining solid was recrystallized from hot MeOH to provide 21 mg (29%) of the title compound as a white solid. Mp: >310° C. MS m/z 307 (M+1), 294, 281, 226. 1H NMR (DMSO-d6; 400 MHz): δ 2.31 (s, 3), 2.52 (s, 2), 6.74 (s, 1), 7.33 (t, 1, J=7.3), 7.43 (t, 2, J=7.8), 7.92 (d, 2, J=7.3), 11.74 (s, 1), 12.22 (s, 1). HRMS: Calcd for M+H, C15H13F3N4: 307.1168. Found: 307.1160.

reactant | 4-chloro-2-methyl-6-phenyl-pyrrolo[3,2-d]pyrimidine | 0.23 mmol, 55.9 mg | ClC1=C2C(NC(=N1)C)=CC(=N2)C2=CC=CC=C2 | C13H10ClN3
reactant | 2,2,2-trifluoroethylamine | 1.15 mmol, 95 μL | FC(CN)(F)F | C2H4F3N
reactant | K2CO3 | 0.92 mmol, 0.13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 1.5 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | (2-Methyl-6-phenylpyrrolo[2,3-e]pyrimidin-4-yl)(2,2,2-trifluoroethyl)amine | 21 mg, 29% | CC=1NC=2C(=C(N1)NCC(F)(F)F)N=C(C2)C2=CC=CC=C2 | C15H13F3N4
